US05028604
A colorless oil of 1-[1-(2-indenylacetyl)-L-prolyl]-L-proline methyl ester was prepared in the same manner as in Example 1, except that 1-(2-indenylacetyl)-L-proline and L-proline methyl ester were used instead of 3-(2-indanylacetyl)-L-thioproline and thiazolidine, respectively (yield: 75%).

reactant | 1-(2-indenylacetyl)-L-proline | C1(C=CC2=CC=CC=C12)CC(=O)N1[C@H](C(=O)O)CCC1 | C16H17NO3
reactant | L-proline methyl ester | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | 3-(2-indanylacetyl)-L-thioproline | C1(CCC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)O | C15H17NO3S
reactant | thiazolidine | S1CNCC1 | C3H7NS
product | 1-[1-(2-indenylacetyl)-L-prolyl]-L-proline methyl ester | yield: 75% | COC([C@H]1N(CCC1)C([C@H]1N(CCC1)C(CC1C=CC2=CC=CC=C12)=O)=O)=O | C22H26N2O4
